US06933311B2
N-(4-tert-butylbenzyl)-2-hydroxy-2-(5-isoquinolinyl)acetamide
The title compound was prepared using the procedure described in Example 222B using 4-(tert-butyl)benzylamine and hydroxy(5-isoquinolinyl)acetic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. [α]22D −47.2 (c 0.7, MeOH); MS (ESI+) m/z 349 (M+H)+; MS (ESI−) m/z 347 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.26 (s, 9H), 3.69 (s, 1H), 4.27 (d, J 6.1, 2H), 5.62 (s, 1H), 6.52 (br s, 1H), 7.17 (d, J 8.1, 2H), 7.29 (m, 3H), 7.67 (t, J 8.1, 1H), 7.82 (d, J 7.1, 1H), 8.10 (m, 2H), 8.44 (d, J 5.8, 1H), 8.71 (t, J 6.1, 1H), 9.30 (s, 1H); Anal. Calcd for C22H24N2O2+0.25H2O: C, 74.87; H, 7.00; N, 7.94. Found: C, 75.22; H, 7.40; N, 7.80.

reactant | 4-(tert-butyl)benzylamine | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | hydroxy(5-isoquinolinyl)acetic acid | OC(C(=O)O)C1=C2C=CN=CC2=CC=C1 | C11H9NO3
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
solvent | MeOH | CO | CH4O
product | N-(4-tert-butylbenzyl)-2-hydroxy-2-(5-isoquinolinyl)acetamide | C(C)(C)(C)C1=CC=C(CNC(C(C2=C3C=CN=CC3=CC=C2)O)=O)C=C1 | C22H24N2O2
